US04960758
VI (b) Preparation of 3-(2-hydroxybenzoyl)benzonitrile
A mixture of 16 g (0.0675 mol) of 3-(2-methoxybenzoyl)benzonitrile and 50 g (0.43 mol) of pyridinium chloride is heated at 180° C. for 12 hours and the reaction mixture is then cooled to 140° C. and hydrolyzed with an ice/concentrated hydrochloric acid mixture. After stirring for 15 minutes, the expected product is extracted with ethyl acetate. The organic phase obtained is washed with water and then brine (saturated aqueous solution of NaCl) until the pH is neutral, dried over magnesium sulfate and then evaporated under reduced pressure. The resulting oil is purified on silica using a toluene/ethyl acetate mixture as the eluent. After evaporation of the solvents from the eluate, 8.5 g of a yellow solid are obtained (yield: 60%).

reactant | 3-(2-methoxybenzoyl)benzonitrile | 0.0675 mol, 16 g | COC1=C(C(=O)C=2C=C(C#N)C=CC2)C=CC=C1 | C15H11NO2
reactant | pyridinium chloride | 0.43 mol, 50 g | [Cl-].[NH+]1=CC=CC=C1
product | 3-(2-hydroxybenzoyl)benzonitrile | yield: 60% | OC1=C(C(=O)C=2C=C(C#N)C=CC2)C=CC=C1 | C14H9NO2
